US03953455
Cyclic aliphatic ketones are known to ring expand with diazomethane to form larger cyclic aliphatic ketones. This reaction may also be conducted in some instances with aromatic ketones, producing a variety of homologous ring-enlarged ketones in addition to forming enols, enol ethers and ethylene oxides. Thus, for example, Schultz et al. J. Am. Chem. Soc. 62, 2902-4 (1940) reported the reaction of diazomethane with fluorenone to yield 5% of 9-phenanthrol, 30% of 9-methoxyphenanthrene, 1.5% of di-9-phenanthryl ether, an unknown substance and 30% of unchanged fluorenone. Substituents on the aromatic ring such as esters and ethers are known to change the ratio of the various products obtained as well as give rise to additional isomeric, homologous ketones and side products. Thus, the reaction of diazomethane with the 2,7-bis basic esters of fluoren-9-one could not have been predicted and is not without difficulty. The reaction is most frequently conducted by treatment of a methanolic solution of the carbonyl containing compound with an ethereal solution of diazomethane, either in the presence or absence of a catalyst. Alternatively, a solution of the carbonyl compound in methanol is treated with nitrosomethylurethane in the presence of a base. The diazomethane is prepared either ex situ or in situ. Generally, applicants prefer to generate the diazomethane ex situ and co-distill the diazomethane so produced with ether into a methanolic solution of the carbonyl containing compound. Suitable inert solvents which may be utilized include such solvents as dioxane, benzene, toluene, chloroform and methylene chloride with ether-methanol being the solvent combination of choice. Additionally, methanol has been shown to have a high catalytic activity for diazomethane ring expansion reactions. Catalysts which may be usefully employed in this reaction include trace amounts of metal salts such as zinc chloride or lithium chloride. A minimum of 2 equivalents of diazomethane are generally employed, one equivalent providing for the ring expansion whereas the other equivalent provides for the formation of a methyl ether at the nine position in order to form the corresponding 9-methoxyphenanthrene (V). In addition to a variety of side products which are formed, some of the intermediate 2,7-bis basic esters of 9-phenanthrol (IV) also remain. These intermediates are readily separated from the reaction mixture in the form of their sodium salts. The 9-lower alkoxyphenanthrene derivatives (II), other than 9-methoxyphenanthrene derivatives are prepared, in turn, by the reaction of the 9-phenanthrols (IV) with other lower diazoalkanes.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | fluorenone | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | 9-methoxyphenanthrene | COC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C15H12O
reactant | di-9-phenanthryl ether | C1=CC=CC=2C3=CC=CC=C3C(=CC12)OC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C28H18O
product | 9-phenanthrol | 5% | C1=CC=CC=2C3=CC=CC=C3C(=CC12)O | C14H10O
